US09120749B2
{6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[(1-methylpiperidin-4-yl)methylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure F, {6-bromo-4-[(1-methylpiperidin-4-yl)methylamino]quinolin-3-yl}(cyclopropyl)methanone (63 mg, 0.156 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (53 mg, 0.187 mmol) to afford the desired product (33 mg, 44%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 9.12 (s, 1H), 8.41 (d, J=1.8 Hz, 1H), 7.99 (dd, J=8.7, 1.9 Hz, 1H), 7.88 (d, J=8.7 Hz, 1H), 7.26 (d, J=2.1 Hz, 1H), 7.19 (d, J=2.1 Hz, 1H), 3.98 (s, 3H), 3.84 (d, J=6.7 Hz, 2H), 3.20-3.13 (m, 2H), 2.87-2.80 (m, 1H), 2.51 (s, J=10.3 Hz, 3H), 2.46 (t, J=11.6 Hz, 2H), 1.97 (d, J=13.2 Hz, 2H), 1.90 (s, 1H), 1.53-1.40 (m, 2H), 1.24-1.17 (m, 2H), 1.14-1.07 (m, 2H); ESI MS m/z [C27H30ClN3O3+H]+; HPLC>99% (AUC), tR=8.32 min.

reactant | {6-bromo-4-[(1-methylpiperidin-4-yl)methylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.156 mmol, 63 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NCC1CCN(CC1)C | C20H24BrN3O
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.187 mmol, 53 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | {6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[(1-methylpiperidin-4-yl)methylamino]quinolin-3-yl}(cyclopropyl)methanone | 33 mg, 44% | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NCC1CCN(CC1)C | C27H30ClN3O3
